US07884110B2
Intermediate 11: 5-Chloro-3-[methoxymethyl-(4-methyl-3-trifluoromethyl-benzenesulfonyl)-amino]-pyridine-2-carboxylic acid methoxymethyl-amide
To a mixture of sodium hydride (164 mg, 4.10 mmol) in 5 mL of THF was added a mixture of 5-chloro-3-(4-methyl-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid methoxy-methyl-amide (1.50 g, 3.42 mmol) and chloromethyl methyl ether (0.388 mL, 5.13 mmol) in 5 mL of THF. The mixture was stirred at room temperature overnight. After the removal of the solvents the residue was purified by flash column (20% ethyl acetate in hexane) to afford 1.50 grams of the title compound as a white solid: (M++H) expect 482.0, found 482.0.

reactant | sodium hydride | 4.10 mmol, 164 mg | [H-].[Na+]
reactant | 5-chloro-3-(4-methyl-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid methoxy-methyl-amide | 3.42 mmol, 1.50 g | CON(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)Cl)C | C16H15ClF3N3O4S
reactant | chloromethyl methyl ether | 5.13 mmol, 0.388 mL | COCCl | C2H5ClO
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Chloro-3-[methoxymethyl-(4-methyl-3-trifluoromethyl-benzenesulfonyl)-amino]-pyridine-2-carboxylic acid methoxymethyl-amide | 1.50 grams | COCNC(=O)C1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)COC)Cl | C18H19ClF3N3O5S
